US05837718
Synthesis of S-ethyl-N-phenylisothiourea.
4 gram N-phenylisothiourea (33 mmol) and 5 ml ethyl bromide were refluxed for 10 hours in ethanol. Again 5 ml ethyl bromide was added. The reaction course was followed by thin layer chromatography (ethylacetate/petroleumether 3:7). Subsequently the solvent was evaporated and the residue crystallised from ethanol/ethylacetate.

reactant | N-phenylisothiourea | 33 mmol, 4 gram | C1(=CC=CC=C1)NC(S)=N | C7H8N2S
reactant | ethyl bromide | 5 ml | C(C)Br | C2H5Br
reactant | ethyl bromide | 5 ml | C(C)Br | C2H5Br
reactant | ethylacetate | C(C)OC(C)=O | C4H8O2
solvent | ethanol | C(C)O | C2H6O
product | S-ethyl-N-phenylisothiourea | C(C)SC(NC1=CC=CC=C1)=N | C9H12N2S
